US04579860
A solution of 0.5 ml of phosgene in 5 ml of benzene was added to 581 mg of 4-chloro-3-hydroxy-5-ethylthiomethylisoxazole, and then the mixture was stirred at room temperature for 5 hours, after which the solvent and excess phosgene were distilled off, to produce 4-chloro-2-chlorocarbonyl-5-ethylthiomethyl-4-isoxazolin-3-one. This was dissolved, without purification, in 30 ml of benzene and an equimolar mixture of the calculated amount of dimethylamine with triethylamine in 5 ml of benzene was added, with stirring, at room temperature. The mixture was stirred for a further 30 minutes and then washed, in turn, with 0.1N sulphuric acid (twice, 10 ml each time) and then water (3 times, 10 ml each time). The benzene layer was dried over anhydrous sodium sulphate, and the solvent was distilled off. The residue was purified by column chromatography through silica gel, eluted with a 25:1 by volume mixture of benzene and acetone. The solvent was distilled from the eluate, to give 661 mg (yield 83.2%) of the title compound in the form of an oil having a refractive index, nD22 =1.5454.

reactant | phosgene | 0.5 ml | C(=O)(Cl)Cl | CCl2O
reactant | 4-chloro-3-hydroxy-5-ethylthiomethylisoxazole | 581 mg | ClC=1C(=NOC1CSCC)O | C6H8ClNO2S
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 4-chloro-2-chlorocarbonyl-5-ethylthiomethyl-4-isoxazolin-3-one | ClC=1C(N(OC1CSCC)C(=O)Cl)=O | C7H7Cl2NO3S
